Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.79789277362
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C@:5]([H:6])([O:7][O:8][H:9])[C:10]([H:11])[H:12].[H:4],1.9656951049
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])=[C:6][H:7].[H:1][C:2]([H:8])=[C:9][C:10]([H:11])([H:12])[H:13],-1.80586692257
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1][O:2][C:3][H:4],7.311128319760001
[H:12].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.98553791965
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1].[O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],4.63091365486
[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[O:11][H:12]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:8]([H:9])[H:10])[O:11][H:12].[H:7],1.11702968239
[O:1]=[C:2]([H:3])/[C:10](=[C:8](/[C:5]([O:4])([H:6])[H:7])[H:9])[H:11]>>[O:1][C@:2]1([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]1[H:11],-0.29156807403900004
[O:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:11]([H:12])([H:13])[H:14],4.67591178079
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:9]=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],1.72436596035
[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-8.75755244957
[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10][H:11],5.0211064396
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],4.51829389712
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.4844393288
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2],6.527389171779999
[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.7902522401
[C:2]([H:3])=[C:4]([H:5])[H:6].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],-5.67252542031
[H:1][O:2][C:3]([H:4])=[C:5]=[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.1189697957200004
[H:12].[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-1.93033992018
[H:1][O:2][C:3]([H:4])=[C:6]([H:5])[H:7].[O:8]([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12],-0.994587586169
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7].[O:8]=[C:9]([H:10])[H:11],1.32537370726
[O:1][C@@:2]([H:3])([C:4]([H:5])=[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11]>>[H:3].[O:1]=[C:2]([C:4]([H:5])=[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11],0.592709467128
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:2](=[C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1],5.78217648401
[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]1[C:2][C:3]1[H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.4727684556300003
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10][H:11]>>[C:5]([H:6])=[C:7]([H:8])[O:9][C:10][H:11].[O:1]=[C:2]([H:3])[H:4],1.41791170157
[H:14].[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.56635572391
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C@:3]1([H:4])[O:5][C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]1([H:12])[H:13],-0.2696421082
